US07932272B2
(5-(5-Methyl-thiophen-2-ylmethyl)-thiophen-2-yl)-methanol
To a solution of 5-(5-methyl-thiophen-2-ylmethyl)-thiophene-2-carbaldehyde described in Preparation Example 66 (790 mg, 3.56 mmol) in tetrahydrofuran (5 mL) was added lithium aluminum hydride (41 mg, 1.06 mmol), and the mixture was stirred at room temperature for 10 minutes. Water and ethyl acetate were added to the reaction mixture, which was then partitioned, the organic layer was filtered with a glass filter lined with silica gel, the filtrate was evaporated in vacuo, and the title compound (640 mg, 2.86 mmol, 80.3%) was obtained as a light brown oil.

reactant | 5-(5-methyl-thiophen-2-ylmethyl)-thiophene-2-carbaldehyde | CC1=CC=C(S1)CC1=CC=C(S1)C=O | C11H10OS2
reactant | lithium aluminum hydride | 1.06 mmol, 41 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (5-(5-Methyl-thiophen-2-ylmethyl)-thiophen-2-yl)-methanol | 2.86 mmol, 640 mg, 80.3% | CC1=CC=C(S1)CC1=CC=C(S1)CO | C11H12OS2
